US06402986B1
4-(4-methoxyphenylethynyl)-2, 6-pyridinedicarboxylic Acid.
4-Methoxyphenyltrimethylsilylacetylene (8.2 g, 39 mmol) was dissolved in 100 mL of methanol with K2CO3 powder (0.5 g, 3.6 mmol). The mixture was stirred at room temperature for 4 hr. After the solvent was removed, 50 mL of water was introduced and the mixture was neutralized with dilute hydrochloric acid. The crude product, 4-methoxyphenylacetylene, was extracted with chloroform (2×50 ml) and purified by column chromatography (silica gel) using 3% chloroform/hexane (96%). 1HNMR (CDCl3), d 7.39 (d, 2H), 6.81 (d, 2H), 3.77 (s, 3H), 2.96 (s, 1H). Diethyl 4-bromo-2,6-pyridinedicarboxylate (2.0 g, 10 mmol) was dissolved in 70 mL of dry THF and 50 ml of anhydrous triethylamine with PdCl2 (75 mg), PPh3 (200 mg) and CuI (120 mg). The mixture was deaerated with argon for 5 min and 2.0 g of methoxyphenylacetylene (15 mmol) was introduced. The mixture was stirred under an atmosphere of argon at 55° for 6 hr. The solvent was removed, and the residue was treated with water and extracted with chloroform (2×75 ml). The crude product from the dried organic extract was purified by column chromatography (silica gel—10% ethyl acetate/hexane). The purified product was recrystallized from 50% chloroform/hexane to yield 1.8 g of white crystals (77%). 1HNMR (acetone-d6): 8.23 (s, 2H), 7.61 (d, 2H), 7.01 (d, 2H), 4.41 (t, 4H), 3.85 (s, 3H), 1.38 (q, 6H). Diethyl 4-(methoxyphenylethynyl)-2,6-pyridinedicarboxylate (1.8 g, 5.5 mmol) was dissolved in 100 ml of ethanol with 2.0 g of KOH. The mixture was stirred at room temperature for 4 hr. After solvent was removed in vacuo, 80 ml of water was added to the residue, and the solution filtered. The filtrate was acidified with dilute hydrochloric acid. The precipitate that resulted was filtered and dried in air, yielding 1.3 g of a white solid, 4-(4-methoxyphenylethynyl)-2,6-pyridinedicarboxylic acid: mp>300° C. 1HNMR (D2ONaOD), δ 8.16 (s, 2H), 7.58 (d, 2H), 7.00 (d, 2H), 3.77 (s, 3H).

reactant | Diethyl 4-(methoxyphenylethynyl)-2,6-pyridinedicarboxylate | 5.5 mmol, 1.8 g | COC1=C(C=CC=C1)C#CC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC | C20H19NO5
reactant | KOH | 2.0 g | [OH-].[K+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(4-methoxyphenylethynyl)-2, 6-pyridinedicarboxylic Acid | 1.3 g | COC1=CC=C(C=C1)C#CC1=CC(=NC(=C1)C(=O)O)C(=O)O | C16H11NO5
